US05112990
Following removal of the solvent under reduced pressure, the β-aminosulfate from the reaction of 1-(R)-cyclohexyl-1,2-cyclic sulfate (0.206 g, 1 mmol) and benzylamine (0.214 g, 2 mmol) was stirred with 20% H2SO4 (5 mL) and ether (5 mL) at room temperature (refluxing of the two phase mixture expedites the hydrolysis) for 12 hours. The organic phase was discarded and the aqueous phase was adjusted to pH 10 with 20% aq. NaOH and extracted with ether (3×20 mL). The combined organic phases were washed with brine (20 mL) and dried over Na2SO4. Concentration gave 1(R)-cyclohexyl-2-benzylaminoethanol (0.117 g, 74%), mp. 56°-58° C., [α]22D=-1.2° (c 1, CHCI3 ; 1H NMR (CDCI3) δ 7.3 (S, 5 H), 3.75 (d, J 5.77 Hz, 2 H), 3.35 (m, 1 H), 2.75 (dd, J=2.5, 9.6 Hz, 2 H), 2.5 (dd, J 9.6, 13 Hz, 1 H), 1.9-1.5 (m, 5 H), 1.3-0.9 (m, 7 H).

reactant | benzylamine | 2 mmol, 0.214 g | C(C1=CC=CC=C1)N | C7H9N
reactant | H2SO4 | 5 mL | OS(=O)(=O)O | H2O4S
reactant | NaOH | [OH-].[Na+]
reactant | ether | 5 mL | CCOCC | C4H10O
product | 1(R)-cyclohexyl-2-benzylaminoethanol | 0.117 g, 74% | C1(CCCCC1)[C@H](CNCC1=CC=CC=C1)O | C15H23NO
